US07259266B2
Step 1. Preparation of Ethyl 6-ethyl-7-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate
To a solution of 0.3 g (1.04 mmol) of 6-ethyl-7-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid in 5 mL of anhydrous dimethylformamide was added 255 mg (0.78 mmol) of cesium carbonate in one portion, followed by addition of 103 uL (1.7 mmol) of ethyl bromide. The reaction was stirred at room temperature overnight. The reaction was added to 100 mL of ethyl acetate. The organic phase was washed with brine three times, and dried over anhydrous magnesium sulfate. After removing the volatiles, the residue was purified by silica chromatography with EtOAc/hexane (3:7) to afford 0.21 g (67%) of a light yellow solid: 1H NMR (CDCl3/400 MHz) 7.68(s, 1H), 7.00(s, 1H), 6.42(s, 1H), 5.63 (q, J=7.2 Hz, 1H), 5.38(s, 1H), 4.28(m, 2H), 2.54(q, J=7.2 Hz, 2H), 1.31(t, J=7.2 Hz, 3H), 1.20(t, J=7.6 Hz, 3H), MS (ESI+) 317 (M+1, 100).

reactant | 6-ethyl-7-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylic acid | 1.04 mmol, 0.3 g | C(C)C=1C=C2C=C(C(OC2=CC1O)C(F)(F)F)C(=O)O | C13H11F3O4
reactant | cesium carbonate | 0.78 mmol, 255 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl bromide | 1.7 mmol, 103 uL | C(C)Br | C2H5Br
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | Ethyl 6-ethyl-7-hydroxy-2-(trifluoromethyl)-2H-chromene-3-carboxylate | 0.21 g, 67% | C(C)C=1C=C2C=C(C(OC2=CC1O)C(F)(F)F)C(=O)OCC | C15H15F3O4
